US04072499
To a stirred solution at 120° C. containing 30 grams of phthalic anhydride in 500 ml. of xylene, 26 grams of 2-amino-5-chloropyridine was added in one portion. The stirred solution was heated at reflux for 4 to 5 hours during which time 3.6 ml. of water was removed. After stirring at 25°-30° C. for 18 hours, the slurry was cooled to 5° C., the solids collected by filtration and air dried at 25°-30° C. An 89 percent yield of N-(5-chloro-2-pyridyl)phthalimide, m.p. 153°-5° C., was obtained.

reactant | phthalic anhydride | 30 grams | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 2-amino-5-chloropyridine | 26 grams | NC1=NC=C(C=C1)Cl | C5H5ClN2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | N-(5-chloro-2-pyridyl)phthalimide | 89 percent yield | ClC=1C=CC(=NC1)N1C(C=2C(C1=O)=CC=CC2)=O | C13H7ClN2O2
